US07345067B2
A solution of (2-fluoro-4-nitro-phenoxy)-acetic acid ethyl ester (17.0 g, 55.92 mmol) in EtOH (330 ml) and aqueous 1M HCl (55.92 ml, 55.92 mmol) was hydrogenated in the presence of 10% Pd/C (1.7 g) for 2 days. After removal of the catalyst the reaction was evaporated and treated with water/Et2O (3×), the aqueous phase was treated with NaHCO3 and extracted with Et2O (3×). The organic phases were washed with aqueous 10% NaCl, dried (Na2SO4) and evaporated to give 5.39 g (45%) of (4-amino-2-fluoro-phenoxy)-acetic acid ethyl ester as a brown crystallin residue, MS: 213 (M+).

reactant | (2-fluoro-4-nitro-phenoxy)-acetic acid ethyl ester | 55.92 mmol, 17.0 g | C(C)OC(COC1=C(C=C(C=C1)[N+](=O)[O-])F)=O | C10H10FNO5
reactant | HCl | 55.92 mmol, 1M, 55.92 ml | Cl | ClH
solvent | EtOH | 330 ml | CCO | C2H6O
catalyst | Pd/C | 1.7 g | [Pd] | Pd
product | (4-amino-2-fluoro-phenoxy)-acetic acid ethyl ester | 5.39 g, 45% | C(C)OC(COC1=C(C=C(C=C1)N)F)=O | C10H12FNO3
